US07820683B2
(2R)—N,N-dimethyl-2-[(4-{[1-(1,3-thiazol-4-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanamide
A mixture of (2R)—N,N-dimethyl-2-[(4-oxo-3,4-dihydroquinazolin-5-yl)oxy]propanamide (200 mg, 0.77 mmol), triphenylphosphine (603 mg, 2.3 mmol) and carbon tetrachloride (2.2 ml, 23 mmol) in 1,2-dichloroethane (5 ml) was stirred at 45° C. for 2 hours. 1-(1,3-Thiazol-4-ylmethyl)-1H-indazol-5-amine (184 mg, 0.8 mmol) was added and the solvents were evaporated under vacuum. Acetonitrile (5 ml) was added. The mixture was stirred at 75° C. for 2 hours. After cooling, the solvents were evaporated under vacuum. The residue was diluted in 6N methanolic ammonia and the solvents were evaporated under vacuum. The residue was purified by chromatography on silica gel (eluant: 3% to 5% methanol in DCM) to give the title compound as a beige foam (215 mg, 60%); NMR Spectrum (CDCl3) 1.73 (d, 3H), 3.06 (s, 3H), 3.14 (s, 3H), 5.43 (q, 1H), 5.80 (s, 2H), 6.81 (d, 1H), 6.93 (s, 1H), 7.48 (m, 2H), 7.60 (t, 1H), 7.84 (dd, 1H), 8.08 (s, 1H), 8.43 (s, 1H), 8.62 (s, 1H), 8.78 (s, 1H); Mass spectrum 474.

reactant | (2R)—N,N-dimethyl-2-[(4-oxo-3,4-dihydroquinazolin-5-yl)oxy]propanamide | 0.77 mmol, 200 mg | CN(C([C@@H](C)OC1=C2C(NC=NC2=CC=C1)=O)=O)C | C13H15N3O3
reactant | triphenylphosphine | 2.3 mmol, 603 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 23 mmol, 2.2 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | 1-(1,3-Thiazol-4-ylmethyl)-1H-indazol-5-amine | 0.8 mmol, 184 mg | S1C=NC(=C1)CN1N=CC2=CC(=CC=C12)N | C11H10N4S
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
product | (2R)—N,N-dimethyl-2-[(4-{[1-(1,3-thiazol-4-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanamide | 215 mg, 60% | CN(C([C@@H](C)OC1=C2C(=NC=NC2=CC=C1)NC=1C=C2C=NN(C2=CC1)CC=1N=CSC1)=O)C | C24H23N7O2S
